US07947738B2
Triphenylphosphine (1.85 g, 7.05 mmol) and carbon tetrachloride (0.78 mL, 8.14 mmol) were added to a dimethylformamide solution (8.0 mL) of tert-butyl(±)-[(1R,5R,6R)-3-(hydroxymethyl)-6-(nitromethyl)bicyclo[3.2.0]hept-3-en-6-yl]acetate (807 mg, 2.71 mmol), and the mixture was stirred at room temperature for 1 hour. To the reaction solution, water was added, followed by extraction with diethyl ether. The organic layer was washed with saturated saline and then dried over anhydrous sodium sulfate. The residue was filtered and concentrated under reduced pressure. Then, the obtained crude product of tert-butyl(±)-[(1R,5R,6R)-3-(chloromethyl)-6-(nitromethyl)bicyclo[3.2.0]hept-3-en-6-yl]acetate was dissolved in dimethylformamide (10 mL). To the solution, sodium thiomethoxide (570 mg, 8.14 mmol) was added with stirring at 0° C., and the mixture was stirred at this temperature for 4 hours. The reaction solution was diluted with ethyl acetate and separated into aqueous and organic layers. The organic layer was washed with a 1 M aqueous sodium hydroxide solution, water, and saturated saline and then dried over anhydrous sodium sulfate. The residue was filtered and concentrated under reduced pressure. Then, the obtained crude product was purified by silica gel column chromatography to obtain the compound of interest as an oil substance (632 mg, 71%).

reactant | Triphenylphosphine | 7.05 mmol, 1.85 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrachloride | 8.14 mmol, 0.78 mL | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | dimethylformamide | 8.0 mL | CN(C=O)C | C3H7NO
reactant | tert-butyl(±)-[(1R,5R,6R)-3-(hydroxymethyl)-6-(nitromethyl)bicyclo[3.2.0]hept-3-en-6-yl]acetate | 2.71 mmol, 807 mg | OCC=1C[C@H]2C[C@@]([C@H]2C1)(C[N+](=O)[O-])CC(=O)OC(C)(C)C | C15H23NO5
solvent | water | O | H2O
product | tert-butyl(±)-[(1R,5R,6R)-3-(chloromethyl)-6-(nitromethyl)bicyclo[3.2.0]hept-3-en-6-yl]acetate | ClCC=1C[C@H]2C[C@@]([C@H]2C1)(C[N+](=O)[O-])CC(=O)OC(C)(C)C | C15H22ClNO4
